US08183275B2
2-(5-{2-[5-(2,2-Dimethylbutyl)-1H-imidazol-2-yl]ethyl}-[1,2,4]oxadiazol-3-yl)pyridine
To N-(4,4-dimethyl-2-oxohexyl)-3-(3-pyridin-2-yl-[1,2,4]oxadiazol-5-yl)propionamide (413 mg, 1.2 mmol) in acetic acid (3 mL) was added ammonium acetate (924 mg, 12 mmol), and the mixture was heated at 180° C. for 20 minutes in a microwave reactor (maximum 150 W). The reaction mixture was poured into ethyl acetate and water, and pH of the aqueous layer was adjusted to 9 with concentrated ammonium hydroxide. The organic layer was separated and concentrated to give a residue. The residue was purified by flash column chromatography (silica gel, eluting with 0-15% 9:1 methanol/ammonium hydroxide mixture in methylene chloride) to afford the title compound, which was converted to the HCl salt with 1M HCl in diethyl ether. 1H NMR (500 MHz, CD3OD) δ 8.83-8.85 (m, 1H), 8.32-8.35 (m, 2H), 7.84-7.89 (m, 1H), 7.22 (s, 1H), 3.59-3.61 (m, 4H), 2.21 (s, 2H), 1.26 (q, J=7.7 Hz, 2H), 0.85 (m, 9H); LC-MS: m/e 326 (M+H).

reactant | N-(4,4-dimethyl-2-oxohexyl)-3-(3-pyridin-2-yl-[1,2,4]oxadiazol-5-yl)propionamide | 1.2 mmol, 413 mg | CC(CC(CNC(CCC1=NC(=NO1)C1=NC=CC=C1)=O)=O)(CC)C | C18H24N4O3
reactant | ammonium acetate | 12 mmol, 924 mg | C(C)(=O)[O-].[NH4+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 2-(5-{2-[5-(2,2-Dimethylbutyl)-1H-imidazol-2-yl]ethyl}-[1,2,4]oxadiazol-3-yl)pyridine | CC(CC1=CN=C(N1)CCC1=NC(=NO1)C1=NC=CC=C1)(CC)C | C18H23N5O
